US04226775
As described in Example 52, 3,4,5-trimethoxybenzaldehyde is converted to 3-(3,4,5-trimethoxybenzoyl)propionic acid. The preceding compound is converted to the hydroxysuccinimide ester as described in Example 15 and coupled to L-proline as described in Example 16. The 1-[3-(3,4,5-trimethoxybenzoyl)propionyl]-L-proline is reacted with bromine in acetic acid as in Example 20 to give 1-[3-bromo-3-(3,4,5-trimethoxybenzoyl)propionyl]-L-proline. The preciding compound is reacted with potassium thioacetate in ethanol-water as in Example 21 to give the product of the Example as a glass.

reactant | 3,4,5-trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | 3-(3,4,5-trimethoxybenzoyl)propionic acid | COC=1C=C(C(=O)CCC(=O)O)C=C(C1OC)OC | C13H16O6
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1-[3-(3,4,5-trimethoxybenzoyl)propionyl]-L-proline | COC=1C=C(C(=O)CCC(=O)N2[C@H](C(=O)O)CCC2)C=C(C1OC)OC | C18H23NO7
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[3-bromo-3-(3,4,5-trimethoxybenzoyl)propionyl]-L-proline | BrC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C18H22BrNO7
